US04315939
50 g of 1-(2-carboethoxy-4,5-dimethyl-pyrrol-3-oxy)-3-chloropropane, 35 g of 4-hydroxy-4-phenyl-piperidine and 50 g of sodium carbonate in 300 ml of N,N-dimethylformamide are heated for 20 hours at 100° C. When the mixture has cooled, it is partitioned between water and methylene chloride, the organic phase is evaporated under reduced pressure, the residue which remains in dissolved in a small amount of methanol, and a solution of hydrogen chloride in ether is added dropwise. The crystals which precipitate are filtered off, washed with ether and dried. 56 g of 3-[3-(4-phenyl-4-hydroxy-piperidino)-propoxy]-4,5-dimethylpyrrole-2-carboxylic acid ethyl ester hydrochloride, of melting point 165°-169° C., are obtained.

reactant | 1-(2-carboethoxy-4,5-dimethyl-pyrrol-3-oxy)-3-chloropropane | 50 g | C(=O)(OCC)C=1NC(=C(C1OCCCCl)C)C | C12H18ClNO3
reactant | 4-hydroxy-4-phenyl-piperidine | 35 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | sodium carbonate | 50 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-[3-(4-phenyl-4-hydroxy-piperidino)-propoxy]-4,5-dimethylpyrrole-2-carboxylic acid ethyl ester hydrochloride | 56 g | Cl.C(C)OC(=O)C=1NC(=C(C1OCCCN1CCC(CC1)(O)C1=CC=CC=C1)C)C | InChI=1S/C23H32N2O4.ClH/c1-4-28-22(26)20-21(17(2)18(3)24-20)29-16-8-13-25-14-11-23(27,12-15-25)19-9-6-5-7-10-19;/h5-7,9-10,24,27H,4,8,11-16H2,1-3H3;1H
